US06667335B2
N-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-yl-methyl]-acetamide
To a solution of 1-(3,4-dichlorophenyl)-1H-imidazole-4-methanamine (0.20 g, 0.83 mmol) in THF (30 ml) was added triethylamine (0.079 g, 0.78 mmol) and acetyl chloride (0.082 mg, 1.0 mmol). The reaction mixture was stirred at rt for 12 h. After evaporation of the solvent, the residue was dissolved in AcOEt and washed with H2O. The organic phase was dried (Na2SO4), concentrated and the obtained crude product was chromatographed [silica, elution with gradient CH2Cl2 to 100% (CH2Cl2/MeOH=9:1)]. The title compound was obtained as an off-white crystalline material (0.17 g, 74%). Mp. 177-180° C. (MeOH/CH2Cl2), MS: m/e=284 (M+H+).

reactant | 1-(3,4-dichlorophenyl)-1H-imidazole-4-methanamine | 0.83 mmol, 0.20 g | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CN | C10H9Cl2N3
reactant | triethylamine | 0.78 mmol, 0.079 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.0 mmol, 0.082 mg | C(C)(=O)Cl | C2H3ClO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-yl-methyl]-acetamide | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CNC(C)=O | C12H11Cl2N3O
